US04201780
Synthesis of 3-chloro-5-(α-cyano-3-phenoxybenzyloxy)-4H-1,2,6 thiadiazin-4-one
To a stirred solution of 7.3 grams (0.04 mole) of 3,5-dichloro-4H-1,2,6-thiadiazin-4-one and 9.0 grams (0.04 mole) of a α-cyano-3-phenoxybenzyl alcohol in 130 ml of ethyl acetate was added dropwise a solution of 4.1 grams (0.04 mole) of triethylamine in approximately 40 ml of ethyl acetate. Upon complete addition the reaction mixture was stirred at ambient temperature for 16 hours, then diluted with 100 ml of water to dissolve triethylamine hydrochloride. The organic layer was removed and washed with 100 ml of water, then with 100 ml of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to a residual solid. The solid was triturated with absolute ethanol and collected by filtration. The filter cake was washed with hexane and recrystallized from glacial acetic acid. The yield was 5.8 grams (39%) of 3-chloro-5-(α-cyano-3-phenoxybenzyloxy)-4H-1,2,6-thiadiazin-4-one; m.p. 146.5°-147.7° C. The nmr and the ir spectra were consistent with the proposed structure.

reactant | 3,5-dichloro-4H-1,2,6-thiadiazin-4-one | 0.04 mole, 7.3 grams | ClC1=NSN=C(C1=O)Cl | C3Cl2N2OS
reactant | α-cyano-3-phenoxybenzyl alcohol | 0.04 mole, 9.0 grams | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
reactant | triethylamine | 0.04 mole, 4.1 grams | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | ethyl acetate | 130 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | approximately 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 3-chloro-5-(α-cyano-3-phenoxybenzyloxy)-4H-1,2,6 thiadiazin-4-one | ClC1=NSN=C(C1=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N | C17H10ClN3O3S
